US08802670B2
To a solution of 3-bromo-4-fluorophenol (0.59 g) in tetrahydrofuran (7 ml) under nitrogen was added sodium hydride, 60% dispersion in mineral oil (0.13 g). The solution was stirred at room temperature. After 30 minutes a solution of 4-methoxybenzylbromide (0.62 g) was added in tetrahydrofuran (5 ml). The reaction mixture was stirred at 50° C. overnight. The reaction mixture was partitioned between dichloromethane and brine, then dried (MgSO4), the solvents were removed in vacuo to give a crude residue. This crude residue was purified using flash chromatography to give 2-bromo-1fluoro-4-(4-methoxy-benzyloxy)-benzene (0.71 g). To a solution of 2-bromo-1fluoro-4-(4-methoxy-benzyloxy)-benzene (0.33 g) in tetrahydrofuran (10 ml) under nitrogen was added triisopropylborate (0.29 ml). The mixture was cooled to −78° C. and 2.5M n-butyllithium solution in hexanes was added. The reaction mixture was stirred at −40° C. for 1 hour, then warmed to 20° C. and quenched with 2M hydrochloric acid (aq) (2 ml). The reaction mixture was warmed to room temperature and stirred for 1 hour. The reaction mixture was adjusted to pH 7 using saturated sodium bicarbonate solution, then partitioned between ethyl acetate and water, dried (MgSO4) and the solvents removed in vacuo to yield a crude residue (0.31 g). A mixture of this crude residue and pinacol (0.25 g) in toluene (10 ml) were stirred under reflux overnight in a Dean-Stark apparatus. The solvents were removed in vacuo, the residue was then partitioned between ethyl acetate and water, the combined organics were washed with water then brine and dried (MgSO4), the solvents were removed in vacuo to yield 2-[2-fluoro-5-(4-methoxy-benzyloxy-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxyborolane (0.28 g)

reactant | 3-bromo-4-fluorophenol | 0.59 g | BrC=1C=C(C=CC1F)O | C6H4BrFO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxybenzylbromide | 0.62 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-bromo-1fluoro-4-(4-methoxy-benzyloxy)-benzene | 0.71 g | BrC1=C(C=CC(=C1)OCC1=CC=C(C=C1)OC)F | C14H12BrFO2
